US05041445
a. 3-(1-piperazinyl)-1H-indazole
A mixture of 4-(1H-indazol-3-yl)-1-piperazinecarbonitrile (8.0 g), and 25% H2SO4 (100 ml) was stirred at reflux for 4.5 hours. The reaction was cooled in an ice bath and made basic by the dropwise addition of 50% NaOH. The basic solution was extracted with ethyl acetate. The ethyl acetate was washed with H2O, dried with MgSO4 and concentrated to afford 5.2 g of the desired compound, as a solid. The sample was recrystallized twice from toluene to afford 3.0 g of the unsubstituted indazole, m.p. 153°-155° C.

reactant | 4-(1H-indazol-3-yl)-1-piperazinecarbonitrile | 8.0 g | N1N=C(C2=CC=CC=C12)N1CCN(CC1)C#N | C12H13N5
reactant | NaOH | [OH-].[Na+]
solvent | H2SO4 | 100 ml | OS(=O)(=O)O | H2O4S
product | 3-(1-piperazinyl)-1H-indazole | 5.2 g | N1(CCNCC1)C1=NNC2=CC=CC=C12 | C11H14N4
